US07498460B2
trans-3-Azidocyclohex-4-enecarboxylic acid
A solution of 10.6 g of sodium azide in 70 ml of water is added to a solution of 18.4 g of racemic cis-6-oxabicyclo[3.2.1]oct-3-en-7-one in 175 ml of THF. The reaction mixture is then heated to reflux for 15 hours. The THF is subsequently stripped off in a rotary evaporator at a bath temperature of 30° C. The remaining aqueous phase is mixed with 165 ml of 2 molar sodium hydroxide solution and extracted twice with 110 ml of toluene each time and once with diethyl ether. The aqueous phase is then acidified with concentrated hydrochloric acid at about 10° C. The product is extracted with dichloromethane. The organic extract is dried over anhydrous sodium sulphate, filtered and concentrated. 19.7 g of an oil, which becomes solid under storage in a refrigerator, are obtained. Assignment of the product to the trans isomer results from the experience that reactions of this type take place with inversion of the stereochemistry at the reaction site.

reactant | sodium azide | 10.6 g | [N-]=[N+]=[N-].[Na+]
reactant | racemic cis-6-oxabicyclo[3.2.1]oct-3-en-7-one | 18.4 g | [C@@H]12CC=C[C@@H](OC1=O)C2 | C7H8O2
solvent | water | 70 ml | O | H2O
solvent | THF | 175 ml | C1CCOC1 | C4H8O
product | trans-3-Azidocyclohex-4-enecarboxylic acid | N(=[N+]=[N-])[C@@H]1C[C@H](CC=C1)C(=O)O | C7H9N3O2
